US04122092
2,2-Dicarbethoxy-1-(3',4',5'-trimethoxyphenyl)-6,7-methylenedioxy-4-tetralone (XV; R2 =ethyl)
In a small Pyrex tube equipped with a spin bar was added 50 mg of 2,2-dicarbethoxy-1-(3',4',5'-trimethoxyphenyl)-6,7-methylenedioxytetralin (XIV-b; R2 = ethyl) and 72 mg (4.0 eq) of N-bromosuccinimide (recrystallized from water). Dioxane (2 ml) was distilled in (from (Na/benzophenone), and the tube was sealed and placed under nitrogen. The mixture was irradiated for 2 min with a sunlamp while cooling with a cold water stream. Water (+μl) was then syringed in and irradiation and cooling was maintained for 18 to 20 min. The reaction mixture was then poured into saturated sodium bisulfite and extracted three times with chloroform. The organic layer was washed twice with 2N sodium hydroxide, twice with water, once with saturated brine, and was dried over sodium sulfate. Filtration and evaporation gave the title product (XV; R2 = ethyl) plus the ring bromination product at C-2' (<10%). One crystallization from methanol gave 46 mg (90%) pure title product, mp 152°-153°.

reactant | 2,2-dicarbethoxy-1-(3',4',5'-trimethoxyphenyl)-6,7-methylenedioxytetralin | 50 mg | C(=O)(OCC)C1(C(C2=CC3=C(C=C2CC1)OCO3)C3=CC(=C(C(=C3)OC)OC)OC)C(=O)OCC | C26H30O9
reactant | N-bromosuccinimide | 72 mg, 4.0 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2,2-Dicarbethoxy-1-(3',4',5'-trimethoxyphenyl)-6,7-methylenedioxy-4-tetralone | C(=O)(OCC)C1(C(C2=CC3=C(C=C2C(C1)=O)OCO3)C3=CC(=C(C(=C3)OC)OC)OC)C(=O)OCC | C26H28O10
